US07348359B2
A mixture of 0.450 mmol of 3-[7-(2-propoxy-3,5-diisopropylphenyl)-benzo[b]furan-2-yl]-but-2-enoic acid ethyl ester, 3 mL of THF, 3 mL of methanol and 1 mL of LiOH (2N aqueous) was refluxed for 2 hours. After cooling at room temperature, the mixture was acidified to pH=2 and extracted with ethyl acetate. The organic layer was dried over MgSO4 and after evaporation of the solvents, the crude acid was recrystallized from acetonitrile. 3-[7-(2-Propoxy-3,5-diisopropylphenyl)-benzo[b]furan-2-yl]-but-2-enoic acid was isolated as a white solid. 1H-NMR (CDCl3), δ: 7.61 (d, J=7.1 Hz, 1H, Ar—H), 7.56 (d, J=7.8 Hz, 1H, Ar—H), 7.28 (m, 2H, Ar—H, Ar—H), 7.16 (d, J=2.2 Hz, 1H, Ar—H), 7.10 (s, 1H, furan-H), 6.60 (s, 1H, C═C—H), 3.43 (m, 1H, CH3—CH—CH3), 3.30 (t, J=6.4 Hz, 2H, O—CH2—CH2—CH3), 2.95 (m, 1H, CH3—CH—CH3), 2.56 (s, 3H, C═C—CH3), 1.32 (m, 14, CH3—CH—CH3, O—CH2—CH2—CH3), 0.64 (t, J=7.4 Hz, 3H, O—CH2—CH2—CH3).

reactant | 3-[7-(2-propoxy-3,5-diisopropylphenyl)-benzo[b]furan-2-yl]-but-2-enoic acid ethyl ester | 0.450 mmol | C(C)OC(C=C(C)C1=CC2=C(O1)C(=CC=C2)C2=C(C(=CC(=C2)C(C)C)C(C)C)OCCC)=O | C29H36O4
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | LiOH | 2N, 1 mL | [Li+].[OH-]
solvent | methanol | 3 mL | CO | CH4O
product | 3-[7-(2-Propoxy-3,5-diisopropylphenyl)-benzo[b]furan-2-yl]-but-2-enoic acid | C(CC)OC1=C(C=C(C=C1C(C)C)C(C)C)C1=CC=CC2=C1OC(=C2)C(=CC(=O)O)C | C27H32O4
